US08975254B2
N-{(S)-1-[3-(3-Chloro-4-cyanophenyl)-1H-pyrazol-1-yl]propan-2-yl}-1-(3-hydroxybutyl)-1H-imidazole-4-carboxamide
Sodium borohydride (9.8 mg, 0.26 mmol) was added to a solution of (S)—N-{1-[3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl]propan-2-yl}-1-(3-oxobutyl)-1H-imidazole-4-carboxamide (100 mg, 0.24 mmol) in ethanol (3 ml) at RT. Thereafter the reaction mixture was stirred at RT for 3 h. Then water was added and the product was extracted into ethyl acetate. The combined organic layers were washed with water and dried. The solvent was evaporated to obtain the title compound. 1H NMR (400 MHz, CDCl3): 1.21 (31-1, d), 1.22 (3H, d), 1.89 (2H, m), 2.31 (1H, broad s), 3.73 (1H, m), 4.15 (2H, m), 4.28 (1H, distorted dd), 4.40 (1H, distorted dd), 4.56 (1H, m), 6.61 (1H, d), 7.51 (2H, m), 7.60 (1H, d), 7.66 (1H, distorted d), 7.79 (1H, m), 7.95 (1H, d), 8.18 (1H, d).

reactant | Sodium borohydride | 0.26 mmol, 9.8 mg | [BH4-].[Na+]
reactant | (S)—N-{1-[3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl]propan-2-yl}-1-(3-oxobutyl)-1H-imidazole-4-carboxamide | 0.24 mmol, 100 mg | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=CN(C1)CCC(C)=O | C21H21ClN6O2
reactant | water | O | H2O
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | N-{(S)-1-[3-(3-Chloro-4-cyanophenyl)-1H-pyrazol-1-yl]propan-2-yl}-1-(3-hydroxybutyl)-1H-imidazole-4-carboxamide | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=CN(C1)CCC(C)O | C21H23ClN6O2
